US08034966B1
4-benzylamino-phenoxyisobutyric acid
A mixture of 1.95 g (0.01 mole) of 4-aminophenoxyisobutyric acid, 25 ml of ethanol, 1.76 g (0.02 mole) of potassium carbonate and 1.2 ml (0.01 mole) of benzyl bromide was stirred and refluxed for 24 hours. Most of the ethanol was evaporated. The residue was dissolved in water, charcoaled, filtered, and acidified water acetic acid to give an oily material which by cooling turned into a solid with a melting point of 194-196° C. The structure (shown below as Formula EX1) was confirmed by NMR spectroscopy.

reactant | 4-aminophenoxyisobutyric acid | 0.01 mole, 1.95 g | NC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C10H13NO3
reactant | potassium carbonate | 0.02 mole, 1.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.01 mole, 1.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-benzylamino-phenoxyisobutyric acid | C(C1=CC=CC=C1)NC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C17H19NO3
